US09034900B2
3-cyclopropyl-5-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-1-methylpyridin-2-one
The title compound was prepared in a manner similar to Example 119, substituting 3-cyclopropyl-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one for 3-Fluoro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one and 2-bromo-1-(cyclopropylmethoxy)-4-ethylsulfonylbenzene for 2-bromo-1-(cyclopropylmethoxy)-4-methanesulfonylbenzene. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.33-0.41 (m, 2H) 0.55-0.61 (m, 2H) 0.63-0.69 (m, 2H) 0.83-0.91 (m, 2H) 1.07-1.14 (m, 3H) 1.19-1.25 (m, 1H) 2.01-2.12 (m, 1H) 3.23-3.30 (m, 2H) 3.52 (s, 3H) 3.92-4.00 (m, 2H) 7.22-7.29 (m, 2H) 7.70-7.80 (m, 3H). LCMS (M+H)+=388.

reactant | 3-Fluoro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one | FC=1C(N(C=C(C1)B1OC(C(O1)(C)C)(C)C)C)=O | C12H17BFNO3
reactant | 2-bromo-1-(cyclopropylmethoxy)-4-ethylsulfonylbenzene | BrC1=C(C=CC(=C1)S(=O)(=O)CC)OCC1CC1 | C12H15BrO3S
reactant | 2-bromo-1-(cyclopropylmethoxy)-4-methanesulfonylbenzene | BrC1=C(C=CC(=C1)S(=O)(=O)C)OCC1CC1 | C11H13BrO3S
product | 3-cyclopropyl-5-[2-(cyclopropylmethoxy)-5-ethylsulfonylphenyl]-1-methylpyridin-2-one | C1(CC1)C=1C(N(C=C(C1)C1=C(C=CC(=C1)S(=O)(=O)CC)OCC1CC1)C)=O | C21H25NO4S
